US06548522B1
2,2-Diphenyl-N-(4,4,4-trifluoro-butyl)-propionamide
The title compound, white solid, m.p. 82° C. and MS: m/e=336.2 (M+H+) was prepared in accordance with the general method of example 1 from 2,2-diphenylpropionyl chloride and 4,4,4-trifluorobutyl-amine.

reactant | 2,2-diphenylpropionyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C)C1=CC=CC=C1 | C15H13ClO
reactant | 4,4,4-trifluorobutyl-amine | FC(CCCN)(F)F | C4H8F3N
product | 2,2-Diphenyl-N-(4,4,4-trifluoro-butyl)-propionamide | C1(=CC=CC=C1)C(C(=O)NCCCC(F)(F)F)(C)C1=CC=CC=C1 | C19H20F3NO
